US09403801B2
Step 1) tert-butyl 9-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate
A solution of tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (506 mg, 1.22 mmol), 5-cyclopropyl-1H-pyrazol-3-amine hydrochloride (272 mg, 1.70 mmol), cesium carbonate (1.176 g, 3.609 mmol), [1-(2-diphenylphosphanyl-1-naphthyl)-2-naphthyl]-diphenyl-phosphane (147.6 mg, 0.2370 mmol) and diacetoxypalladium (53.8 mg, 0.240 mmol) in anhydrous dioxane (10 mL) stirred in a sealed tube under the microwave radiation at 150° C. for 2 h. Then the reaction mixture was concentrated in vacuo and the residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=30/1) to give the title compound as a light yellow solid (364 mg, 59.5%).

reactant | tert-butyl 9-((2,5-dichloropyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 1.22 mmol, 506 mg | ClC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)Cl | C19H28Cl2N4O2
reactant | 5-cyclopropyl-1H-pyrazol-3-amine hydrochloride | 1.70 mmol, 272 mg | Cl.C1(CC1)C1=CC(=NN1)N
reactant | cesium carbonate | 3.609 mmol, 1.176 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | [1-(2-diphenylphosphanyl-1-naphthyl)-2-naphthyl]-diphenyl-phosphane | 0.2370 mmol, 147.6 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | diacetoxypalladium | 0.240 mmol, 53.8 mg | C(C)(=O)O[Pd]OC(C)=O
product | tert-butyl 9-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 364 mg, 59.5% | ClC=1C(=NC(=NC1)NC1=NNC(=C1)C1CC1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C25H36ClN7O2
